US07585880B2
5-methyl-4-phenyl-N-propyl-1,3-oxazole-2-amine
To a solution of 2-chloro-5-methyl-4-phenyl-1,3-oxazole (1.46 g, 7.56 mmol) in ethanol (15 mL) was added propylamine (5 mL), and the mixture was stirred in a sealed tube at 110° C. for 8 hr. The reaction mixture was concentrated and water was added. The mixture was extracted with ethyl acetate, washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=2:1) to give the title compound (850 mg, yield 52%) as a yellow powder.

reactant | 2-chloro-5-methyl-4-phenyl-1,3-oxazole | 7.56 mmol, 1.46 g | ClC=1OC(=C(N1)C1=CC=CC=C1)C | C10H8ClNO
reactant | propylamine | 5 mL | C(CC)N | C3H9N
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 5-methyl-4-phenyl-N-propyl-1,3-oxazole-2-amine | 850 mg, yield 52% | CC1=C(N=C(O1)NCCC)C1=CC=CC=C1 | C13H16N2O
